DIODE voltage divider
.include ./d1n4148.mod

R1 1 2 1e4
R2 2 0 1e4
D1 2 3 D1N4148
R3 3 0 1e6
V1 1 0 DC 5
.dc R2 1 1e4 0.1
.control
run
let Vout = dc1.v(3)
plot Vout
hardcopy plot.ps Vout
.endc
.end
